US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (0.13 mL) was added to a solution mixture of the obtained tert-butyl 4-(2-(2-(benzyloxy)-5-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)benzamido)-4-phenylbenzoyloxy)piperidine-1-carboxylate (0.072 g) in methanol (1 mL) and dioxane (1 mL), followed by stirring at room temperature for 1 hour. A 2 mol/L aqueous solution of sodium hydroxide (0.089 mL) was added to the reaction mixture, followed by heating to reflux for 20 minutes. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and water was added to the obtained residue. After adjusting the pH to 3.5 with a 10% aqueous solution of citric acid, ethyl acetate was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. To a solution mixture of the obtained residue, 10% palladium-carbon (0.039 g) in methanol (1.5 mL) and ethyl acetate (1.5 mL) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration to obtain 0.024 g of 2-(5-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)-2-hydroxybenzamido)-4-phenylbenzoic acid as a light yellow solid.

reactant | sodium hydroxide | 0.13 mL | [OH-].[Na+]
reactant | tert-butyl 4-(2-(2-(benzyloxy)-5-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)benzamido)-4-phenylbenzoyloxy)piperidine-1-carboxylate | 0.072 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC3CCN(CC3)C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C47H55N3O9
reactant | sodium hydroxide | 0.089 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(5-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.024 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C30H32N2O7
